US04898862
α-Amino-p-methoxyacetophenone hydrochloride
45.82 g of α-bromo-p-methoxyacetophenone were dissolved in 400 ml of methylene chloride, and 28.04 g of hexamethylenetetramine were added to the solution, which was then stirred at room temperature for 2 hours. The crystals which precipitated were collected by filtration. 200 ml of ethanol and 100 ml of concentrated hydrochloric acid were added to these crystals, and the mixture was stirred at room temperature for 18 hours. The reaction mixture was then concentrated by evaporation under reduced pressure, and the residue was dissolved in water. The aqueous solution was made alkaline by the addition of a 20% w/v aqueous solution of potassium carbonate and was then extracted with ethyl acetate. The ethyl acetate extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. A 4N solution of hydrochloric acid in dioxane was then added. The crystals which precipitated were collected by filtration, to give to 30.7 g of the title compound as yellow fine crystals melting at 201° C. (with decomposition).

reactant | α-bromo-p-methoxyacetophenone | 45.82 g | BrCC(=O)C1=CC=C(C=C1)OC | C9H9BrO2
reactant | hexamethylenetetramine | 28.04 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | α-Amino-p-methoxyacetophenone hydrochloride | 30.7 g | Cl.NCC(=O)C1=CC=C(C=C1)OC | InChI=1S/C9H11NO2.ClH/c1-12-8-4-2-7(3-5-8)9(11)6-10;/h2-5H,6,10H2,1H3;1H
